US08022208B2
5-Bromopyrimidin-4(3H)-one (459 mg) was dissolved in N,N-dimethylformamide (13 mL), then with cooling with ice, sodium hydride (55%, 137 mg) was added, followed by stirring at the same temperature for 30 minutes. Then, 1-(chloromethyl)-4-methoxybenzene (392 μL) was added, followed by stirring at room temperature for 15 hours. Water was added to the reaction mixture, followed by extraction with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1 to 2:1) to obtain 5-bromo-3-(4-methoxybenzyl)pyrimidin-4(3H)-one (382 mg) as a white solid.

reactant | 5-Bromopyrimidin-4(3H)-one | 459 mg | BrC=1C(NC=NC1)=O | C4H3BrN2O
reactant | sodium hydride | 137 mg | [H-].[Na+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 392 μL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
product | 5-bromo-3-(4-methoxybenzyl)pyrimidin-4(3H)-one | 382 mg | BrC=1C(N(C=NC1)CC1=CC=C(C=C1)OC)=O | C12H11BrN2O2
